US08309546B2
Step 2: 5-{9-Isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-8-piperazin-1-yl-9H-purin-2-yl}pyrimidin-2-amine
An N-methyl-2-pyrrolidone (2 ml) solution of 5-{8-chloro-9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-9H-purin-2-yl}pyrimidin-2-amine (307 mg, 0.76 mmol) and piperazine (328 mg, 3.81 mmol) was stirred at 150° C. for 90 minutes and returned to room temperature. The reaction mixture was purified by flash silica gel column chromatography (chloroform:methanol=95:5 to 85:15) to give the title compound (245 mg, 71%) as a solid.

reactant | 5-{8-chloro-9-isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-9H-purin-2-yl}pyrimidin-2-amine | 0.76 mmol, 307 mg | ClC=1N(C2=NC(=NC(=C2N1)N1[C@H](COCC1)C)C=1C=NC(=NC1)N)CC(C)C | C18H23ClN8O
reactant | piperazine | 3.81 mmol, 328 mg | N1CCNCC1 | C4H10N2
solvent | N-methyl-2-pyrrolidone | 2 ml | CN1C(CCC1)=O | C5H9NO
product | 5-{9-Isobutyl-6-[(3S)-3-methylmorpholin-4-yl]-8-piperazin-1-yl-9H-purin-2-yl}pyrimidin-2-amine | 245 mg, 71% | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1CCNCC1)N1[C@H](COCC1)C)C=1C=NC(=NC1)N | C22H32N10O
